US07332483B2
3-{3-[N-(3-fluoro-5-morpholinophenyl)carbamoyl]phenyl}-8-[N-(3-dimethylaminopropyl)-N-methylamino]-3,4-dihydroquinazolin-4-one
Using an analogous procedure to that described in Example 1, 3-{2-amino-3-[N-(3-dimethylaminopropyl)-N-methylamino]benzamido]-N-(3-fluoro-5-morpholinophenyl)benzamide was reacted with triethyl orthoformate. The reaction product was purified by column chromatography on an isolute SCX ion exchange column using initially methanol and then a 99:1 mixture of methanol and a saturated aqueous ammonium hydroxide solution as eluent. There was thus obtained the title compound Mass Spectrum: M+H+ 559.

reactant | 3-{2-amino-3-[N-(3-dimethylaminopropyl)-N-methylamino]benzamido]-N-(3-fluoro-5-morpholinophenyl)benzamide | NC1=C(C(=O)NC=2C=C(C(=O)NC3=CC(=CC(=C3)N3CCOCC3)F)C=CC2)C=CC=C1N(C)CCCN(C)C | C30H37FN6O3
reactant | triethyl orthoformate | C(OCC)(OCC)OCC | C7H16O3
product | 3-{3-[N-(3-fluoro-5-morpholinophenyl)carbamoyl]phenyl}-8-[N-(3-dimethylaminopropyl)-N-methylamino]-3,4-dihydroquinazolin-4-one | FC=1C=C(C=C(C1)N1CCOCC1)NC(=O)C=1C=C(C=CC1)N1C=NC2=C(C=CC=C2C1=O)N(C)CCCN(C)C | C31H35FN6O3
